US08957062B2
Step C: 1-(4-{2-[(1S,2R)-2-{1-[3-(1-methylethyl)-1,2,4-oxadiazol-5-yl]piperidin-4-yl]cyclopropyl}ethoxy}phenyl)imidazolidin-2-one
To a solution of 4-(2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethoxy)aniline (82 mg, 0.221 mmol) in THF (2.5 ml) at room temperature under nitrogen was added DIPEA (0.155 ml, 0.885 mmol), followed by 2-chloroethyl isocyanate (0.038 ml, 0.443 mmol) and the resulting mixture stirred at room temperature for 1 hour. The mixture was then cooled to 0° C. and NaOtBu (2M solution in THF) (0.443 ml, 0.885 mmol) was added dropwise. The ice bath was removed and the mixture was stirred for 30 minutes at room temperature. The mixture was quenched with formic acid (0.068 ml, 1.771 mmol) and then concentrated under reduced pressure. The residue was dissolved in DMF and filtered. The residue in DMF was then purified by RP HPLC on a Gilson, SunFire-5C18 OBD 19×150 mm column, eluting with a gradient of MeCN in water (0.1% HCOOH) from 10% to 100% over 8 minutes, hold at 100% for 1 minute, at 20 ml/min flow rate. The fractions containing product were combined, frozen and then lyophilized from MeCN/water to afford the title compound.

reactant | 4-(2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethoxy)aniline | 0.221 mmol, 82 mg | C(C)(C)C1=NOC(=N1)N1CCC(CC1)[C@@H]1[C@@H](C1)CCOC1=CC=C(N)C=C1 | C21H30N4O2
reactant | DIPEA | 0.885 mmol, 0.155 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloroethyl isocyanate | 0.443 mmol, 0.038 ml | ClCCN=C=O | C3H4ClNO
reactant | NaOtBu | 0.885 mmol, 2M, 0.443 ml | CC(C)(C)[O-].[Na+]
reactant | formic acid | 1.771 mmol, 0.068 ml | C(=O)O | CH2O2
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
product | 1-(4-{2-[(1S,2R)-2-{1-[3-(1-methylethyl)-1,2,4-oxadiazol-5-yl]piperidin-4-yl]cyclopropyl}ethoxy}phenyl)imidazolidin-2-one | CC(C)C1=NOC(=N1)N1CCC(CC1)[C@@H]1[C@@H](C1)CCOC1=CC=C(C=C1)N1C(NCC1)=O | C24H33N5O3
